US05811439
There were dissolved, in 26 ml of dimethylformamide, 2.00 g of indole-4-carbaldehyde and 4.64 g of n-hexyl bromide, followed by addition of 9.52 g of potassium carbonate and heating the reaction solution to 55° C. with stirring for 12.5 hours. The reaction solution was poured into 500 ml of a 10% aqueous solution of ammonium chloride followed by extraction with ethyl acetate (150 ml×3). The resulting organic phase was washed with a saturated common salt solution, dried over anhydrous sodium sulfate, followed by removal of the solvent through evaporation under reduced pressure. The resulting crude product was purified by silica gel column chromatography (hexane:ethyl acetate=10:1) to give 1.91 g of 1-hexylindole-4-carbaldehyde as a yellow oily substance. The yield thereof was found to be 61%.

reactant | indole-4-carbaldehyde | 2.00 g | N1C=CC=2C(=CC=CC12)C=O | C9H7NO
reactant | n-hexyl bromide | 4.64 g | C(CCCCC)Br | C6H13Br
reactant | potassium carbonate | 9.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 26 ml | CN(C=O)C | C3H7NO
product | 1-hexylindole-4-carbaldehyde | 1.91 g | C(CCCCC)N1C=CC=2C(=CC=CC12)C=O | C15H19NO
